US07838674B2
20.b: N-(3-Methoxycarbonylmethyl-oxetan-3-yl)-malonamic acid ethyl ester
(3-Amino-oxetan-3-yl)-acetic acid methyl ester (95 mg; 0.655 mmol) dissolved in CH2Cl2 (5 ml) and triethylamine (0.22 ml; 1.6 mmol) are cooled to −5° C. Chlorocarbonyl-acetic acid ethyl ester (0.1 ml; 0.79 mmol) is slowly added under stirring. The reaction mixture is warmed to room temperature, stirred for 20 minutes, poured on a saturated solution of NaHCO3 and extracted with CH2Cl2 three times. The organic phases are combined, dried over Na2SO4, filtered and evaporated to dryness. Chromatography (SiO2; Hexanes/acetone 4:1) yields the title compound as yellow resin. 1H-NMR (400 MHz; DMSO-d6): 8.93 (s, 1H); 4.54 (dd, 4H); 4.09 (q, 2H); 3.60 (s, 3H); 3.23 (s, 2H); 3.10 (s, 2H); 1.19 (t, 3H). MS (m/z) ES+: 260 (MH+)

reactant | (3-Amino-oxetan-3-yl)-acetic acid methyl ester | 0.655 mmol, 95 mg | COC(CC1(COC1)N)=O | C6H11NO3
reactant | triethylamine | 1.6 mmol, 0.22 ml | C(C)N(CC)CC | C6H15N
reactant | Chlorocarbonyl-acetic acid ethyl ester | 0.79 mmol, 0.1 ml | C(C)OC(CC(=O)Cl)=O | C5H7ClO3
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | CH2Cl2 | 5 ml | C(Cl)Cl | CH2Cl2
product | N-(3-Methoxycarbonylmethyl-oxetan-3-yl)-malonamic acid ethyl ester | C(C)OC(CC(=O)NC1(COC1)CC(=O)OC)=O | C11H17NO6
